US09079866B2
5-[2′-(2-Aminoethoxy)-3-fluorobiphenyl-4-yl]pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 2-(2-bromophenoxy)ethanamine and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C18H17FN4O, 324.14; m/z found, 325.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.47 (d, J=0.9, 2H), 8.29 (s, 1H), 7.58-7.54 (m, 1H), 7.53-7.49 (m, 1H), 7.45 (dd, J=8.0, 1.4, 1H), 7.39-7.34 (m, 2H), 7.15 (d, J=8.1, 1H), 7.09-7.05 (m, 1H), 6.86 (s, 2H), 4.13 (t, J=5.4, 2H), 3.05 (t, J=5.4, 2H).

reactant | 2-(2-bromophenoxy)ethanamine | BrC1=C(OCCN)C=CC=C1 | C8H10BrNO
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-[2′-(2-Aminoethoxy)-3-fluorobiphenyl-4-yl]pyrimidin-2-amine | NCCOC1=C(C=CC=C1)C1=CC(=C(C=C1)C=1C=NC(=NC1)N)F | C18H17FN4O
